US05272141
(N-acetyl-2-iodo-5-methoxytriptamine)
To a solution of melatonin (2.32 g: 10 mM) in chloroform (70 ml) cooled at -20° C. there is added N-iodosuccinimide (NIS:2.25 g; 10 nM); the reaction mixture is stirred at -20° C. for 4.5 hours.

reactant | melatonin | 10 mM, 2.32 g | CC(=O)NCCC1=CNC2=C1C=C(C=C2)OC | C13H16N2O2
reactant | N-iodosuccinimide | 10 nM, 2.25 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | N-acetyl-2-iodo-5-methoxytriptamine | C(C)(=O)NCCC1=C(NC2=CC=C(C=C12)OC)I | C13H15IN2O2
